US06291458B1
(R)-N-[5-Methyl-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-morpholinobenzamide Glycolate.
To a hot solution of (R)-N-[5-methyl-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl)-4-morpholinobenzamide (1.0 g, 2.2 mmol) in ethanol (50 mL) was added a hot solution of glycolic acid (200 mg, 2.6 mmol) in ethanol (10 mL). The solvent was concentrated in vacuo and to the remaining solution (20 mL) was boiling ethyl acetate added until the solution was cloudy. After boiling for a few minutes, the solution was cooled and put in the refrigerator over night. The crystals were filtered and dried in vacuo to give 1.0 gram (83% yield) of the title compound as white crystals. Anal. Calcd. for C27H36N4O2×C7H6O3×2H2O: C, 62.1; H, 7.9; N, 10.0. Found: C, 62.7; H, 7.7; N, 9.6.

reactant | (R)-N-[5-methyl-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl)-4-morpholinobenzamide | 2.2 mmol, 1.0 g | CC1=C2CC[C@H](CC2=C(C=C1)N1CCN(CC1)C)NC(C1=CC=C(C=C1)N1CCOCC1)=O | C27H36N4O2
reactant | glycolic acid | 2.6 mmol, 200 mg | C(CO)(=O)O | C2H4O3
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (R)-N-[5-Methyl-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-morpholinobenzamide Glycolate | 1.0 gram, 83% yield | C(CO)(=O)O.CC1=C2CC[C@H](CC2=C(C=C1)N1CCN(CC1)C)NC(C1=CC=C(C=C1)N1CCOCC1)=O | InChI=1S/C27H36N4O2.C2H4O3/c1-20-3-10-26(31-13-11-29(2)12-14-31)25-19-22(6-9-24(20)25)28-27(32)21-4-7-23(8-5-21)30-15-17-33-18-16-30;3-1-2(4)5/h3-5,7-8,10,22H,6,9,11-19H2,1-2H3,(H,28,32);3H,1H2,(H,4,5)/t22-;/m1./s1
